US05393875
In an analogous manner to that described in Example 1, paragraph (d), by adding L-penicillamine methyl ester (J. Chem. Soc. Dalton Trans. 1984, 1333) to benzyl 2-benzylacrylate there was obtained benzyl (RS)-α-[[[(S)-2-amino-2-(methoxycarbonyl)1,1-dimethylethyl]thio]methyl]hydrocinnamate, MS: 416 (M+H)+, as an oil, the amino group of which was protected according to a general procedure known from the literature by reaction with di-tert-butyl dicarbonate. Subsequent oxidation with 3-chloroperbenzoic acid in methylene chloride gave benzyl (RS)-α-[[[(S)-2-(1-tert-butoxyformamido)-2-(methoxycarbonyl)-1,1-dimethylethyl]sulfonyl]methyl]hydrocinnamate as a colourless oil, MS: 448 (M-Boc+H)+. p1 (1) Catalytic hydrogenation of benzyl (RS)-α-[[[(S)-2-(1-tert-butoxy- formamido)-2-(methoxycarbonyl)-1,1-dimethylethyl]sulfonyl]-methyl]hydrocinnamate analogously to Example 1, paragraph (g), yielded (RS)-α-[[[(S)-2-(1-tert-butoxyformamido)-2-(methoxycarbonyl)-l,1dimethylethyl]sulfonyl]methyl]hydrocinnamic acid as a colourless solid, MS: 401 (M-C4H8)+.

reactant | L-penicillamine methyl ester | COC([C@@H](N)C(C)(C)S)=O | C6H13NO2S
reactant | benzyl 2-benzylacrylate | C(C1=CC=CC=C1)C(C(=O)OCC1=CC=CC=C1)=C | C17H16O2
product | benzyl (RS)-α-[[[(S)-2-amino-2-(methoxycarbonyl)1,1-dimethylethyl]thio]methyl]hydrocinnamate | N[C@H](C(C)(C)SCC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)C(=O)OC | C23H29NO4S
